US05097013
D-Nle-OH (1.01 g) was dissolved in 30 ml of 10% NaCO3 and 10 ml of dioxan. While stirring, a solution of Fmoc-Cl (2.0 g) in 10 ml of dioxan was added to the solution. After stirring at room temperature for 2 hours, 400 ml of water was added to the mixture. The reaction mixture was extracted twice with 200 ml of ether to remove by-products. Ice was added to the aqueous phase and the mixture was neutralized with conc. hydrochloric acid. After extracting with ethyl acetate, the extract was washed with water. Crystallization from ether gave 933 mg of Fmoc-D-Nle-OH.

reactant | D-Nle-OH | 1.01 g | N[C@H](CCCC)C(=O)O | C6H13NO2
reactant | Fmoc-Cl | 2.0 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | water | 400 ml | O | H2O
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | Fmoc-D-Nle-OH | 933 mg | N([C@H](CCCC)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
